US03989758
31.1 g. of 1,1-diethoxy-2,6-dimethyl-2,4,6-octatrien-8-ol are dissolved in a mixture of 800 ml. of petroleum ether (boiling range 40°-45° C.) and 200 ml. of ether, and after the addition of 150 g. of manganous oxide, shaken for 16 hours at room temperature. The mixture is then filtered, washed with ether, and after evaporation of the filtrate, 22 g. of 1,1-diethoxy-2,6-dimethyl-2,4,6-octatrien-8-al is obtained, which can be used for the Wittig reaction without further purification. The aldehyde can be purified through adsorption on aluminum oxide (activity II deactivated with 2 per cent water and 0.5 per cent pyridine). A small portion is removed by washing with a petroleum ether/ether mixture (95:5). By elution with a petroleum ether/ether mixture (3:1), there is obtained pure 1,1-diethoxy-2,6-dimethyl-2,4,6-octatrien-8-al (Abs. Max. 325 mμ; E11 = 1200; nD24 = 1.5607). Melting point of the di-semicarbazone 242°-243° C. with decomposition.

reactant | 1,1-diethoxy-2,6-dimethyl-2,4,6-octatrien-8-ol | C(C)OC(C(=CC=CC(=CCO)C)C)OCC | C14H24O3
solvent | ether | CCOCC | C4H10O
product | 1,1-diethoxy-2,6-dimethyl-2,4,6-octatrien-8-al | C(C)OC(C(=CC=CC(=CC=O)C)C)OCC | C14H22O3
